US05679671
Preparation of 2-acetylthio-3-(4-fluorophenyl)propionic acid
Diphenylmethyl 2-acetylthio-3-(4-fluorophenyl)propionate (3.38 g, 8.27 mmol) was dissolved in anisole (9.0 ml), followed by cooling to -10° C. Into this solution was further dropped trifluoroacetic acid (51.0 ml). Next, this solution was heated to 0° C. About 1 hour thereafter, it was concentrated under reduced pressure. To the concentrate was added diethyl ether (80 ml) and the resulting solution was extracted with a saturated aqueous solution of sodium hydrogencarbonate (100 ml×2). To the alkaline aqueous solution thus obtained was added a 2N aqueous solution of hydrochloric acid until the solution became acidic. Further, it was extracted with methylene chloride (100 ml×3). The organic phase was washed with a saturated aqueous sodium chloride (100 ml) and dried over magnesium sulfate. After drying, the filtrate obtained by filtering thereof was concentrated under reduced pressure. Thus, the title compound (1.96 g, 98%) was obtained as colorless crystals.

reactant | Diphenylmethyl 2-acetylthio-3-(4-fluorophenyl)propionate | 8.27 mmol, 3.38 g | C(C)(=O)SC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=C(C=C1)F | C24H21FO3S
reactant | trifluoroacetic acid | 51.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | Cl | ClH
solvent | anisole | 9.0 ml | C1(=CC=CC=C1)OC | C7H8O
product | 2-acetylthio-3-(4-fluorophenyl)propionic acid | 1.96 g, 98% | C(C)(=O)SC(C(=O)O)CC1=CC=C(C=C1)F | C11H11FO3S
